US09382234B2
To a solution of methyl 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoate (335 mg, 0.926 mmol) in methanol (10 mL) was added 8 M sodium hydroxide (0.926 mL, 7.41 mmol). The resulting solution was stirred at room temperature for 3 days, at which time the methanol was removed in vacuo and the residue diluted with water (2 mL). The mixture was acidified with 6 M HCl (1.157 mL, 6.94 mmol) and the resulting suspension was stirred at room temperature for 20 min. The white solid was collected via vacuum filtration and air dried under vacuum to give 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoic acid (172 mg, 0.494 mmol, 53.4% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.22 (br. s., 1H), 8.50 (s, 1H), 8.18 (d, J=6.32 Hz, 1H), 7.35 (d, J=2.02 Hz, 1H), 7.29 (d, J=2.02 Hz, 1H), 6.88 (dd, J=1.26, 6.32 Hz, 1H), 4.82 (tt, J=3.60, 7.26 Hz, 1H), 3.91 (d, J=4.55 Hz, 2H), 3.51-3.72 (m, 2H), 2.30 (s, 3H), 1.89-2.04 (m, 2H), 1.54-1.74 (m, 2H). MS(ES) [M+H]+ 348.1.

reactant | methyl 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoate | 0.926 mmol, 335 mg | ClC=1C=C(C(=C(C(=O)OC)C1)C)OC1CCN(CC1)C1=NC=NC=C1 | C18H20ClN3O3
reactant | sodium hydroxide | 7.41 mmol, 8 M, 0.926 mL | [OH-].[Na+]
reactant | HCl | 6.94 mmol, 6 M, 1.157 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoic acid | 0.494 mmol, 172 mg, 53.4% yield | ClC=1C=C(C(=C(C(=O)O)C1)C)OC1CCN(CC1)C1=NC=NC=C1 | C17H18ClN3O3
